### PR TITLE
feat: equivalence of tree maps

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds an equivalence relation to tree maps akin to the existing one for hash maps. In order to get many congruence lemmas to eventually use for defining functions on extensional tree maps, almost all of the remaining tree map functions have also been given lemmas to relate them to list functions, although these aren't currently used to prove lemmas other than congruence lemmas.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 29fc6a46a86a8cc5d6214a325351a50891ff94d8 --onto d26d7973ad39eab976ed351255ee30f038439944`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-02 21:37:55)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 29fc6a46a86a8cc5d6214a325351a50891ff94d8 --onto afab374305fb2327036e4fe1ab799fc8928425b7`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-03 23:18:38)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 29fc6a46a86a8cc5d6214a325351a50891ff94d8 --onto ef603cf37d20dce48eda63f740b83480faedd613`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-05 14:22:22)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 29fc6a46a86a8cc5d6214a325351a50891ff94d8 --onto af51e3e4b1c655df43476972c4d9aeae76e49046`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-06 17:22:43)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3481f43130125ebbae42d49582c6096aeb842e76 --onto 6ca31baa55e4b29c9667085736863f9ca840b16c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-15 19:14:51)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0e96318c72741c4acf837af757cb5b5304b64a60 --onto ca9b3eb75f3f794d3d526a7c37da389175b317a2`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-16 15:39:06)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5e40f4af52c50ff670c2b09b87930b42ff30a6ba --onto 4eccb5b4792c270ad10ac059b9672a8845961079`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-22 18:05:42)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 6afa8208ec99dd16554a9ede609706d27e2bc360 --onto 4eccb5b4792c270ad10ac059b9672a8845961079`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-23 17:13:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ebf5fbd294b379dcaf4a7a6da0a6934b035e61d4 --onto 9b9dd8546a123d746580649b239f26c26d370d20`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-05 14:57:00)

**Comment by Rob23oba** [comment]
changelog-library

**Comment by TwoFX** [comment]
(note: as long as this PR is marked as a draft, I'm assuming you don't want it to be reviewed yet. If you want me to look at something, please mark the PR as ready or ping me here or on Zulip)

**Comment by Rob23oba** [comment]
Oh, well it isn't complete yet but a review would be nice for the internal stuff.

**Comment by Rob23oba** [comment]
awaiting-review

File: src/Std/Data/DTreeMap/Basic.lean [hunk 1]
```diff
@@ -83,6 +83,13 @@ instance : EmptyCollection (DTreeMap α β cmp) where
 instance : Inhabited (DTreeMap α β cmp) where
   default := ∅
 
+@[inherit_doc Impl.Equiv]
+structure Equiv (m₁ m₂ : DTreeMap α β cmp) where
+  /-- Internal implementation detail of the hash map -/
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Basic.lean]:
```suggestion
  /-- Internal implementation detail of the tree map -/
```

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean [hunk 2]
```diff
@@ -1844,6 +1883,14 @@ theorem Ordered.reverse [Ord α] {t : Impl α β} (h : t.Ordered) :
   simp only [Ordered, toListModel_reverse]
   exact List.pairwise_reverse.mpr h
 
+theorem maxEntry?_eq_maxEntry? [o : Ord α] [to : TransOrd α] {t : Impl α β} (hlo : t.Ordered) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean]:
```suggestion
theorem maxEntry?_eq_minEntry? [o : Ord α] [to : TransOrd α] {t : Impl α β} (hlo : t.Ordered) :
```

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean [hunk 3]
```diff
@@ -1865,4 +1912,140 @@ theorem maxKeyD_eq_maxKeyD [Ord α] [TransOrd α] [BEq α] [LawfulBEqOrd α] {t
...
+    entryAtIdxD t i fallback = (t.toListModel[i]?.map (fun x => (x.1, x.2))).getD fallback := by
+  rw [entryAtIdxD_eq_getD_entryAtIdx?, entryAtIdx?_eq_getElem? htb]
+
+end Const
+
+/-!
+### `getEntryLE?` / `getKeyLE?` / ...
+-/
+
+instance [Ord α] [TransOrd α] {k : α} : IsStrictCut compare fun k' => (compare k k').then .gt where
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean]: This is probably a general result about strict cuts and `Ordering.then`, right? I think it should be moved to the file about strict cuts.

File: src/Std/Data/DTreeMap/Internal/Model.lean [hunk 4]
```diff
@@ -116,6 +116,100 @@ def explore {γ : Type w} [Ord α] (k : α → Ordering) (init : γ)
...
+@[congr]
+theorem applyPartition.go.match_1.congr {α : Sort u} {o o' : Ordering}
+    {lt : o = .lt → α} {eq : o = .eq → α} {gt : o = .gt → α}
+    {lt' : o' = .lt → α} {eq' : o' = .eq → α} {gt' : o' = .gt → α}
+    (ho : o = o')
+    (hlt : ∀ h, lt (ho.trans h) = lt' h)
+    (heq : ∀ h, eq (ho.trans h) = eq' h)
+    (hgt : ∀ h, gt (ho.trans h) = gt' h) :
+    (match (generalizing := false) h : o with | .lt => lt h | .eq => eq h | .gt => gt h)
+    = (match (generalizing := false) h : o' with | .lt => lt' h | .eq => eq' h | .gt => gt' h) := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Model.lean]:
```suggestion
      = (match (generalizing := false) h : o' with | .lt => lt' h | .eq => eq' h | .gt => gt' h) := by
```

**Review by TwoFX — COMMENTED** [review]
Looking very good so far, just a few small remarks

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean (hunk 3 above)
Comment (Rob23oba) [reply src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean]: The reason I put it here is because of a similar instance 150 lines above, should I move both to the file about strict cuts then?

Comment (TwoFX) [reply src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean]: Yes, I think we forgot to move them when the tree maps were first merged.

**Comment by Rob23oba** [comment]
awaiting-review

File: src/Std/Data/TreeSet/AdditionalOperations.lean [hunk 5]
```diff
@@ -22,7 +22,7 @@ universe u v w
 
 variable {α : Type u} {β : Type v} {cmp : α → α → Ordering}
 
-namespace Std.TreeMap
+namespace Std.TreeSet
```
Comment (TwoFX) [inline src/Std/Data/TreeSet/AdditionalOperations.lean:25]: Oops, nice catch.

**Review by TwoFX — APPROVED** [review]
Great work, thanks!
